//* (C) Copyright Efficient Power Conversion Corporation. All rights reserved.
//*****************************************************************************
//* Version History:
//* 1.00: 11/19/2021 - Initial Model Creation

simulator lang=spectre

subckt EPC2070 (gatein drainin sourcein)
parameters  si=1.710e-01 so=8.892e-01 sr=2.280e+02
parameters  aWg=228 A1=(5.576e-02*aWg) k2=2.204e+00 k3=9.000e-02 rpara=1.523e-02
+	rpara_s_factor=3.545e-01 aITc=3.000e-03 arTc=-7.860e-03 k2Tc=6.500e-04
+	x0_0=3.920e+00 x0_0_TC=-1.000e-03 x0_1=4.337e-01 x0_1_TC=0.000e+00
+	dgs1=4.3e-07 dgs2=2.6e-13 dgs3=0.8 dgs4=0.23
+	ags1=(1.501e-09*si) ags2=(5.754e-10*si) ags3=1.798e+00 ags4=2.157e-01
+	ags5=(1.731e-12*si) ags6=7.480e+01 ags7=1.055e+01
+	agd1=(1.404e-15*sr) agd2=(1.040e-13*sr) agd3=-4.952e+00 agd4=2.858e+00
+	agd5=(8.697e-16*sr) agd6=-6.555e+01 agd7=1.095e+01 agd8=(6.539e-15*sr)
+	agd9=-2.699e+01 agd10=4.366e+00
+	asd1=(8.159e-11*so) asd2=(1.370e-10*so) asd3=-1.040e+01 asd4=1.287e+00
+	asd5=(5.583e-11*so) asd6=-2.808e+01 asd7=2.960e+00 asd8=(1.161e-11*so)
+	asd9=-8.125e+01 asd10=1.416e+01
+	rg_value=1.0

rd (drainin drain) resistor r=((1-rpara_s_factor)*rpara*(1-arTc*(temp-25)))
rs (sourcein source) resistor r=(rpara_s_factor*rpara*(1-arTc*(temp-25)))
rg (gatein gate) resistor r=(rg_value)

rcsdconv (drain source) resistor r=(1E9/aWg)
rcgsconv (gate source) resistor r=(1E9/aWg)
rcgdconv (gate drain) resistor r=(1E9/aWg)

gswitch drain source bsource i=( (v(drain,source)>0) ? 
+	(A1*(1-aITc*(temp-25))*log(1.0+exp((v(gate,source)-(k2*(1-k2Tc*(temp-25))))/k3))* 
+	v(drain,source)/(1 + (x0_0*(1-x0_0_TC*(temp-25))+x0_1*(1-x0_1_TC*(temp-25))*v(gate,source))*v(drain,source))) :
+	(-A1*(1-aITc*(temp-25))*log(1.0+exp((v(gate,drain)-(k2*(1-k2Tc*(temp-25))))/k3))* 
+	v(source,drain)/(1 + (x0_0*(1-x0_0_TC*(temp-25))+x0_1*(1-x0_1_TC*(temp-25))*v(gate,drain))*v(source,drain))) )

ggsdiode gate source bsource i=( (v(gate,source)>10) ? 
+	(0.125*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))) : 
+	(0.125*aWg/1077*(dgs1*(exp((v(gate,source))/dgs3)-1)+dgs2*(exp((v(gate,source))/dgs4)-1))) )

ggddiode gate drain bsource i=( (v(gate,drain)>10) ? 
+	(0.125*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))) : 
+	(0.125*aWg/1077*(dgs1*(exp((v(gate,drain))/dgs3)-1)+dgs2*(exp((v(gate,drain))/dgs4)-1))) )


C_GS  (gate source) bsource c=(ags1)  
G_CGS1 (gate source) bsource q=(0.5*ags2*ags4*log(1+exp((v(gate,source)-ags3)/ags4))+
+	ags5*ags7*log(1+exp((v(source,drain)-ags6)/ags7)) )

C_GD  (gate drain) bsource c=(agd1)  
G_CGD1 (gate drain) bsource q=(0.5*ags2*ags4*log(1+exp((v(gate,drain)-ags3)/ags4))+
+	agd2*agd4*log(1+exp((v(gate,drain)-agd3)/agd4))+
+	agd5*agd7*log(1+exp((v(gate,drain)-agd6)/agd7))+
+	agd8*agd10*log(1+exp((v(gate,drain)-agd9)/agd10)) )

C_SD  (source drain) bsource c=(asd1) 
G_CSD1 (source drain) bsource q=(asd2*asd4*log(1+exp((v(source,drain)-asd3)/asd4))+
+	asd5*asd7*log(1+exp((v(source,drain)-asd6)/asd7))+ 
+	asd8*asd10*log(1+exp((v(source,drain)-asd9)/asd10)) )

ends EPC2070
